US04670193
3-Phenylpropyl phosphonic acid
To a solution of 3-phenylpropyl phosphonous acid (0.92 g, 0.005 mole) in acetone (10 ml) and water (10 ml) was added a solution of sodium hydroxide (0.2 g, 0.005 mole) in water (10 ml) until a pH of about 7 was reached. A solution of KMnO4 (0.474 g, 0.003 mole) in water (10 ml) was added slowly to the vigorously stirred solution of phosphonous acid at 20°-25° C. After the addition (5 minutes), the reaction mixture was stirred for 5 minutes at ambient temperature and acidified with concentrated HCl acid until a pH of 1 was reached. Saturated sodium bisulfite solution was added to the reaction mixture thereby resulting in formation of a precipitate.

reactant | 3-phenylpropyl phosphonous acid | 0.005 mole, 0.92 g | C1(=CC=CC=C1)CCCP(O)O | C9H13O2P
reactant | sodium hydroxide | 0.005 mole, 0.2 g | [OH-].[Na+]
reactant | KMnO4 | 0.003 mole, 0.474 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | phosphonous acid | P(O)O | H3O2P
reactant | HCl | Cl | ClH
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 3-Phenylpropyl phosphonic acid | C1(=CC=CC=C1)CCCP(O)(O)=O | C9H13O3P
